US08084448B2
E. Tert-butyl N-[2-(benzyloxy)-4-iodophenyl]-N-({(tert-butoxycarbonyl)[2-(trimethylsilyl)ethyl]amino}sulfonyl)glycinate
To a solution of N-(t-butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-iodophenyl)glycine tert-butyl ester (3.49 g, 5.6 mmol) in toluene (224 mL) is added triphenylphosphine (2.22 g, 8.47 mmol) and 2-trimethylsilanylethanol (992 mg, 8.38 mmol). DIAD (1.6 mL, 8.13 mmol) is then added dropwise over 10 min. The mixture is stirred for 50 min then the toluene is remove under reduced pressure. After 18 h, 20% EtOAc/hexane is added (50 ml in 4 increments) to form a precipitate. The solid is filtered and the filtrate is then concentrated. The residue is then purified by column chromatography to give the title compound as a white foam.

reactant | N-(t-butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-iodophenyl)glycine tert-butyl ester | 5.6 mmol, 3.49 g | C(C)(C)(C)OC(CN(C1=C(C=C(C=C1)I)OCC1=CC=CC=C1)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C24H31IN2O7S
reactant | triphenylphosphine | 8.47 mmol, 2.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-trimethylsilanylethanol | 8.38 mmol, 992 mg | C[Si](CCO)(C)C | C5H14OSi
reactant | DIAD | 8.13 mmol, 1.6 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 224 mL | C1(=CC=CC=C1)C | C7H8
product | Tert-butyl N-[2-(benzyloxy)-4-iodophenyl]-N-({(tert-butoxycarbonyl)[2-(trimethylsilyl)ethyl]amino}sulfonyl)glycinate | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N(CC(=O)OC(C)(C)C)S(=O)(=O)N(CC[Si](C)(C)C)C(=O)OC(C)(C)C | C29H43IN2O7SSi
